US04818272
To an acetonitrile solution (30 ml) of a mixture of 3-(2',4'-dichloro-5'-hydroxyphenyl)-5-(sec-butylidene)-1,3-oxazolidine-2,4-dione (1.58 g, 5 mmol) was added potassium carbonate (0.69 g), and the mixture was heated at reflux for 2 hours. After the addition of ethyl 2-bromopropionate (0.93 g, 5.1 mmol), the reaction mixture was further refluxed for 1 hour. Ether was added to the reaction mixture and the solution was washed with 1N hydrochloric acid and extracted with ether. The ethereal extracts combined were dried and then evaporated as small a volume as possible. The resulting residue was purified by silica gel column chromatography to give 3-{2',4'-dichloro-5'-(1"-ethoxycarbonylethyloxy)phenyl}-5-(sec-butylidene)-1,3-oxazolidine-2,4-dione. (1.51 g, 73% yield)

reactant | acetonitrile | 30 ml | C(C)#N | C2H3N
reactant | 3-(2',4'-dichloro-5'-hydroxyphenyl)-5-(sec-butylidene)-1,3-oxazolidine-2,4-dione | 5 mmol, 1.58 g | ClC1=C(C=C(C(=C1)Cl)O)N1C(OC(C1=O)=C(C)CC)=O | C13H11Cl2NO4
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 2-bromopropionate | 5.1 mmol, 0.93 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | Ether | CCOCC | C4H10O
product | 3-{2',4'-dichloro-5'-(1"-ethoxycarbonylethyloxy)phenyl}-5-(sec-butylidene)-1,3-oxazolidine-2,4-dione | 73% yield | ClC1=C(C=C(C(=C1)Cl)OC(C)C(=O)OCC)N1C(OC(C1=O)=C(C)CC)=O | C18H19Cl2NO6
